US06184386B2
To 180.0 g (1.63 mols) of ammonium dithiocarbamate was added 1.5 liters of isopropyl alcohol, the mixture was stirred and then 268.9 g (1.63 mols) of ethyl 4-chloro-3-oxobutanoate was added dropwise to the mixture. After stirring the resultant mixture for 3 hours under refluxing, 300 ml of water was added to the reaction mixture, the mixture was cooled to room temperature and crystals formed were collected by filtration under a reduced pressure to obtain crude crystals. The crude crystals were recrystallized from ethyl acetate to obtain 188 g (yield 57%) of 4-ethoxycarbonylmethyl-2-mercaptothiazole.

reactant | ammonium dithiocarbamate | 1.63 mols, 180.0 g | C(N)([S-])=S.[NH4+]
reactant | isopropyl alcohol | 1.5 liters | C(C)(C)O | C3H8O
reactant | ethyl 4-chloro-3-oxobutanoate | 1.63 mols, 268.9 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
solvent | water | 300 ml | O | H2O
product | 4-ethoxycarbonylmethyl-2-mercaptothiazole | 188 g, yield 57% | C(C)OC(=O)CC=1N=C(SC1)S | C7H9NO2S2
